US07855297B2
By the reaction and treatment in the same manner as in Example 6 using N-(4-isopropylphenyl)-7-methoxy-1,2,3,4-tetrahydronaphthalene-1-carboxamide (0.49 g) and 1-methanesulfonyloxy-4-(4-methoxyphenyl)butane (0.43 g) as starting materials, N-(4-isopropylphenyl)-N-[4-(4-methoxyphenyl)butyl]-7-methoxy-1,2,3,4-tetrahydronaphthalene-1-carboxamide (0.25 g) was obtained.

reactant | N-(4-isopropylphenyl)-7-methoxy-1,2,3,4-tetrahydronaphthalene-1-carboxamide | 0.49 g | C(C)(C)C1=CC=C(C=C1)NC(=O)C1CCCC2=CC=C(C=C12)OC | C21H25NO2
reactant | 1-methanesulfonyloxy-4-(4-methoxyphenyl)butane | 0.43 g | CS(=O)(=O)OCCCCC1=CC=C(C=C1)OC | C12H18O4S
product | N-(4-isopropylphenyl)-N-[4-(4-methoxyphenyl)butyl]-7-methoxy-1,2,3,4-tetrahydronaphthalene-1-carboxamide | 0.25 g | C(C)(C)C1=CC=C(C=C1)N(C(=O)C1CCCC2=CC=C(C=C12)OC)CCCCC1=CC=C(C=C1)OC | C32H39NO3
